US08202858B2
4-{2-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methylbenzylcarbamoyl]-ethyl}-piperidine-1-carboxylic Acid 4-nitro-benzyl Ester
A solution of 4-nitrobenzyl chloroformate (1.08 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-piperidin-4-yl-propionamide hydrochloride (Compound number 1108) (2.97 mg, 0.005 mmol) in dichloro-methane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then sol-vents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=700.5, 702.5

reactant | 4-nitrobenzyl chloroformate | 0.005 mmol, 1.08 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-piperidin-4-yl-propionamide hydrochloride | 0.005 mmol, 2.97 mg | Cl.ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(CNC(CCC3CCNCC3)=O)C=C2)C)C)C1
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloro-methane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | 4-{2-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methylbenzylcarbamoyl]-ethyl}-piperidine-1-carboxylic Acid 4-nitro-benzyl Ester | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)CCC(NCC2=CC(=C(C=C2)C(=O)N2C3=C(NC=4N(N=CC4C2)C)C=C(C=C3)Cl)C)=O)C=C1 | C36H38ClN7O6
